US05089654
To a solution of 3.11 g of 2-heptylbenzaldehyde and 3.35 g of 2'-hydroxy-4'-(3-methyl-2-butenyloxy)-acetophenone in 65 ml of isopropanol was added a solution of 2.9 g of sodium hydroxide in 6 ml of water under a nitrogen atmosphere, and the mixture was stirred at 45° C. for 8 hours. After neutralization with dilute hydrochloric acid with ice cooling, the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography with n-hexane including 1% ethyl acetate. The resulting fractions containing the end compound was recrystallized from isopropanol to give 3.23 g of 2-n-heptyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)-chalcone as yellow needles.

reactant | 2-heptylbenzaldehyde | 3.11 g | C(CCCCCC)C1=C(C=O)C=CC=C1 | C14H20O
reactant | 2'-hydroxy-4'-(3-methyl-2-butenyloxy)-acetophenone | 3.35 g | OC1=C(C=CC(=C1)OCC=C(C)C)C(C)=O | C13H16O3
reactant | sodium hydroxide | 2.9 g | [OH-].[Na+]
solvent | isopropanol | 65 ml | C(C)(C)O | C3H8O
solvent | water | 6 ml | O | H2O
product | 2-n-heptyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)-chalcone | 3.23 g | C(CCCCCC)C1=C(C=CC=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)O | C27H34O3
